US05728835
1-(2,2-Diethoxyethyl)-4-(4-fluorobenzoyl)piperidine
4-(4-Fluorobenzoyl)piperidine (207 mg, 1.0 mmol) was dissolved in methylene chloride (5 ml) to which were subsequently added bromoacetoaldehyde diethylacetal (305 mg, 1.5 mmol) and triethylamine (0.5 ml). After 12 hours of heating under reflux, the solvent was removed by evaporation, and the resulting residue was purified by subjecting it to a silica gel column chromatography (ether) to obtain 81 mg (25.0%) of the title compound in the form of orange oil.

reactant | 4-(4-Fluorobenzoyl)piperidine | 1.0 mmol, 207 mg | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
reactant | bromoacetoaldehyde diethylacetal | 1.5 mmol, 305 mg | C(C)OC(CBr)OCC | C6H13BrO2
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 1-(2,2-Diethoxyethyl)-4-(4-fluorobenzoyl)piperidine | 81 mg, 25.0% | C(C)OC(CN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)OCC | C18H26FNO3
